US07737149B2
N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-4-(4-propan-2-yl-1,4-diazepan-1-yl)benzamide
N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-4-(4-propan-2-yl-1,4-diazepan-1-yl)benzamide was prepared using the same procedure as for Example 159, but starting from ethyl 4-(4-isopropyl-1,4-diazepan-1-yl)benzoate (0.212 g, 0.73 mmol), 5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-amine (0.181 g, 0.73 mmol) and a 2M solution of trimethylaluminium (0.913 ml, 1.83 mmol) in toluene. The crude product was purified by preparative HPLC, using decreasingly polar mixtures of water (containing 1% NH3) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford a gum which solidified on trituration with DCM/Ether to afford the title compound (0.154 g, 42.9%) as a cream solid.

reactant | ethyl 4-(4-isopropyl-1,4-diazepan-1-yl)benzoate | 0.73 mmol, 0.212 g | C(C)(C)N1CCN(CCC1)C1=CC=C(C(=O)OCC)C=C1 | C17H26N2O2
reactant | 5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-amine | 0.73 mmol, 0.181 g | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)N | C13H17N3O2
reactant | trimethylaluminium | 1.83 mmol, 0.913 ml | C[Al](C)C
reactant | DCM Ether | C(Cl)Cl.CCOCC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-4-(4-propan-2-yl-1,4-diazepan-1-yl)benzamide | 0.154 g, 42.9% | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)NC(C1=CC=C(C=C1)N1CCN(CCC1)C(C)C)=O | C28H37N5O3
